US07511035B2
(b) (2-{4-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-1-piperazinyl}ethyl)amine
To a solution of 1,1-dimethylethyl (2-{4-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-1-piperazinyl}ethyl)carbamate (725 mg, 1.79 mmol) in MeOH (9 mL) at 25° C. was added dropwise a 4M solution of HCl in dioxane (3.1 mL, 12.53 mmol). After 12 h, the solution was concentrated the residue neutralized using excess MP carbonate resin in DCM affording the free amine which was used without further purification: LCMS (ES) m/e 306 (M+H)+.

reactant | 1,1-dimethylethyl (2-{4-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-1-piperazinyl}ethyl)carbamate | 1.79 mmol, 725 mg | FC=1C=NC2=CC=C(N=C2C1N1CCN(CC1)CCNC(OC(C)(C)C)=O)OC | C20H28FN5O3
reactant | HCl | Cl | ClH
reactant | dioxane | 12.53 mmol, 3.1 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 9 mL | CO | CH4O
product | (2-{4-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-1-piperazinyl}ethyl)amine | FC=1C=NC2=CC=C(N=C2C1N1CCN(CC1)CCN)OC | C15H20FN5O
